*   Copyright (C) 2010 John P. Doty jpd@noqsi.com            		 *
*                                                                        *
*   This program is free software; you can redistribute it and/or modify *
*   it under the terms of the GNU General Public License as published by *
*   the Free Software Foundation; either version 2 of the License, or    *
*   (at your option) any later version.                                  *
*                                                                        *
*   This program is distributed in the hope that it will be useful,      *
*   but WITHOUT ANY WARRANTY; without even the implied warranty of       *
*   MERCHANTABILITY or FITNESS FOR A PARTICULAR PURPOSE.  See the        *
*   GNU General Public License for more details.                         *
*                                                                        *
*   You should have received a copy of the GNU General Public License    *
*   along with this program; if not, write to the                        *
*   Free Software Foundation, Inc.,                                      *
*   59 Temple Place - Suite 330, Boston, MA  02111-1307, USA.            *
*
* Model for CA3080 originally created 7/23/92 jpd
* Modified for ngspice and GPL publication 4/24/2010 jpd
* Netlist modified from a Workview drawing
* Transistor models generated by applying Pspice/Parts to
* the specs of a CA3096 array, assumed
* to have the same transistors in it. Simulation by Pspice matched
* physical circuit well, but modifications needed for ngspice may cause
* degradation: I haven't checked.


*KICAD: 1 > nc   2 > 1     3 > 2    4 > 4     5 > 6     6 > 5   7 > 3     8 > nc

* connections:   non-inverting input
*                |  inverting input
*                |  |  positive power supply
*                |  |  |   negative power supply
*                |  |  |   |   output
*                |  |  |   |   | Iabc
.subckt CA3080 N28 N1 N8 N13 N30 N11

Q1       N11 N11 N13 N13 VERTNPN
Q2       N1N22 N1N17 N1N15 N13 LATPNP
Q3       N1N22 N1N13 N1N17 N13 LATPNP
D1       N1N13 N1N17 DND
Q4       N1N52 N11 N13 N13 VERTNPN
Q5       N1N32 N28 N1N52 N13 VERTNPN
Q6       N30 N1N32 N1N34 N13 LATPNP
D2       N1N32 N1N34 DND
Q7       N30 N1N34 N1N36 N13 LATPNP
Q8       N1N36 N1N36 N8 N13  LATPNP
Q9       N1N32 N1N36 N8 N13  LATPNP
Q10      N1N13 N1   N1N52 N13 VERTNPN
Q11      N1N22 N1N44 N13 N13 VERTNPN
Q12      N1N44 N1N44 N13 N13 VERTNPN
Q13      N30 N1N22 N1N44 N13 VERTNPN
Q14      N1N13 N1N15 N8 N13  LATPNP
Q15      N1N15 N1N15 N8 N13  LATPNP

.ENDS

* Nondescript diode model
*
.MODEL DND D(IS=2P RS=5 BV=40 CJO=3P TT=6N)

* rcapnp model created using Parts version 5.1 on 07/21/92 at 11:56
* substrate capacitance added 7/21/92 jpd
.model latpnp   PNP(level=1
+		Is=50f Xti=3 Eg=1.11 Vaf=80 Bf=100 Ise=130f Ne=1.5 Ikf=1m
+               Xtb=1.5 Br=1 Isc=0 Nc=2 Ikr=0 Rc=0 Cjc=4p Mjc=.3333
+               Vjc=.75 Fc=.5 Cje=1.4p Mje=.3333 Vje=.75 Tr=500n Tf=23n Itf=.1
+               Xtf=1 Vtf=10 Cjs=5.5p Mjs=.3333 Vjs=.75)

* rcanpn model created using Parts version 5.1 on 07/21/92 at 12:01
* substrate capacitance added 7/21/92 jpd
.model vertnpn   NPN(level=1
+		Is=21.48f Xti=3 Eg=1.11 Vaf=80 Bf=550 Ise=50f Ne=1.5
+               Ikf=10m Xtb=1.5 Br=.1 Isc=10f Nc=2 Ikr=3m Rc=10 Cjc=800f
+               Mjc=.3333 Vjc=.75 Fc=.5 Cje=1.3p Mje=.3333 Vje=.75 Tr=30n
+               Tf=400p Itf=30m Xtf=1 Vtf=10 Cjs=5.8p Mjs=.3333 Vjs=.75)